US05064833
E. Preparation of 2-amino-4-(2-methylphenylamino)-8-methoxyquinazoline
8-Methoxy-4-(2-methylphenylamino)-2-chloroquinazoline (1.8 g, 0.006 mol) was dissolved in ethanolic ammonia and heated in a sealed vessel at 120° for 3 hours. After cooling, removal of excess solvent and chromatography (silica gel, 2% methanolic ammonia in chloroform) the 2 amino-4-(2-methylphenylamino)-8-methoxyquinazoline was isolated as crystals (0.52 g, 31%) from ethanol, m.p. 218°-220°.

reactant | 8-Methoxy-4-(2-methylphenylamino)-2-chloroquinazoline | 0.006 mol, 1.8 g | COC=1C=CC=C2C(=NC(=NC12)Cl)NC1=C(C=CC=C1)C | C16H14ClN3O
reactant | ammonia | N | H3N
product | 2-amino-4-(2-methylphenylamino)-8-methoxyquinazoline | 0.52 g, 31% | NC1=NC2=C(C=CC=C2C(=N1)NC1=C(C=CC=C1)C)OC | C16H16N4O
